US07834019B2
1) Production of 1-(2-hydroxyethyl)-4-(2-methyl-4-nitrophenyl)piperazine
In the same manner as in Production Example 5-1, but using 4-(2-ethoxyethyl)piperazine in place of N-ethylpiperazine used in Production Example 5-1, using 5-nitro-2-fluorotoluene in place of 2-fluoro-5-nitrobenzyl alcohol, using N,N-diisopropylethylamine in place of potassium carbonate, and using dimethylsulfoxide in place of N-methylpyrrolidone, the entitled compound was obtained as a yellow solid.

reactant | 4-(2-ethoxyethyl)piperazine | C(C)OCCN1CCNCC1 | C8H18N2O
reactant | 5-nitro-2-fluorotoluene | [N+](=O)([O-])C=1C=CC(=C(C1)C)F | C7H6FNO2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 1-(2-hydroxyethyl)-4-(2-methyl-4-nitrophenyl)piperazine | OCCN1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C | C13H19N3O3
